US07670613B2
Trans-2-Methylcylopentanol (50 mg, 0.5 mmol) was added to a flame dried round bottom flask under nitrogen containing 0.5 mL of dry tetrahydrofuran (“THF”) and cooled to 0° C. A 1.0 M solution of potassium t-butoxide in t-butanol (0.5 mL) was added dropwise and the reaction mixture stirred at 0° C. for 0.5 h. The above solution was then transferred via syringe to a flask containing 2-Trifluoromethyl-4-fluoro-benzonitrile (95 mg, 0.5 mmol) in 0.5 mL of THF at 0° C. The mixture was stirred at 0° C. for 3 h, warmed to room temperature and stirred for 16 h. The reaction mixture was then cooled to 0° C., poured into a seperatory funnel containing 8 mL of water, and extracted with 10 mL of methyl tert-butyl ether. The organic phase was washed with water, brine, dried (MgSO4), concentrated in vacuo, and the residue purified by reverse phase HPLC (Shimadzu) to give 112 mg 4-(trans-2-Methyl-cyclopentyloxy)-2-trifluoromethyl-benzonitrile. GC/MS: 269 (M/Z for C14H14F3NO).

reactant | Trans-2-Methylcylopentanol | 0.5 mmol, 50 mg | C[C@H]1[C@@H](CCC1)O | C6H12O
reactant | 2-Trifluoromethyl-4-fluoro-benzonitrile | 0.5 mmol, 95 mg | FC(C1=C(C#N)C=CC(=C1)F)(F)F | C8H3F4N
reactant | water | 8 mL | O | H2O
solvent | THF | 0.5 mL | O1CCCC1 | C4H8O
product | 4-(trans-2-Methyl-cyclopentyloxy)-2-trifluoromethyl-benzonitrile | 112 mg | C[C@H]1[C@@H](CCC1)OC1=CC(=C(C#N)C=C1)C(F)(F)F | C14H14F3NO
